US06143900
N-benzoylphenylalaninol is synthesized by following steps of: i) suspending 1 mole (163 g) of L-phenylalaninol to 1 L of tetrahydrofuran, ii) adding 2.5 mole (100 g) of NaBH4 to the solution, iii) dropping 1.25 mole of ether-diluted sulfuric acid (66 ml, total volume 200 ml) to the solution at 0° C., iv) after reacting the solution for 12 hours at room temperature, adding 200 ml of methanol slowly, v) after adding 1 L of 5N-NaOH, evaporating organic solvent and refluxing for 3 hours, vi) after cooling to room temperature, adding 1 L of methylenechloride to the solution, vii) adding 1 mole of benzoylchloride to the solution slowly at 0° C., viii) after finishing the reaction, filtering the reaction mixture, ix) washing the product with hot water three times, and x) obtaining 207 g (81%) of N-benzoylphenylalaninol after drying the product.

reactant | L-phenylalaninol | 1 mole, 163 g | N[C@@H](CC1=CC=CC=C1)CO | C9H13NO
reactant | NaBH4 | 2.5 mole, 100 g | [BH4-].[Na+]
reactant | ether | 1.25 mole, 66 ml | CCOCC | C4H10O
reactant | NaOH | [OH-].[Na+]
reactant | benzoylchloride | 1 mole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methanol | 200 ml | CO | CH4O
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
product | N-benzoylphenylalaninol | 207 g, 81% | C(C1=CC=CC=C1)(=O)N[C@@H](CC1=CC=CC=C1)CO | C16H17NO2
